US06995144B2
7-(tert-Butoxycarbonyl)-2-(2-fluorophenoxy)-7-azaspiro[3.5]nonane
After dissolving 148 mg of 2-fluorophenol in 10 mg of dimethylformamide, 53 mg of sodium hydride (70% suspension in oil) was added, the mixture was stirred at 80° C. for 30 minutes, a solution of 148 mg of 7-(tert-butoxycarbonyl)-2-methanesulfonyloxy-7-azaspiro[3.5]nonane in N,N-dimethylformamide (7 ml) was added and the mixture was stirred at 80° C. for two nights. After cooling it to room temperature, water was added and extraction was performed with ethyl acetate. The organic layer was washed with a 1N sodium hydroxide solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain the title compound (163 mg, 100% yield).

reactant | 2-fluorophenol | 148 mg | FC1=C(C=CC=C1)O | C6H5FO
reactant | sodium hydride | 53 mg | [H-].[Na+]
reactant | 7-(tert-butoxycarbonyl)-2-methanesulfonyloxy-7-azaspiro[3.5]nonane | 148 mg | C(C)(C)(C)OC(=O)N1CCC2(CC(C2)OS(=O)(=O)C)CC1 | C14H25NO5S
reactant | water | O | H2O
solvent | dimethylformamide | 10 mg | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 7-(tert-Butoxycarbonyl)-2-(2-fluorophenoxy)-7-azaspiro[3.5]nonane | 163 mg, 100% yield | C(C)(C)(C)OC(=O)N1CCC2(CC(C2)OC2=C(C=CC=C2)F)CC1 | C19H26FNO3
